US05371101
(1R)-1-[2-(2,4-Difluorophenyl)-2-oxiranyl]ethanol (31.5 g) and 40 g of 3,5-dinitrobenzoyl chloride were dissolved in 500 ml of methylene chloride and, with ice cooling, 24.1 ml of triethylamine was added dropwise thereinto. The reaction solution was stirred at room temperature for 3.5 hours, washed with 150 ml of water and then with 150 ml of 5% aqueous solution of sodium bicarbonate, dried over magnesium sulfate and concentrated under reduced pressure. The crystals separated out were collected by filtration and washed with methylene chloride. The mother liquor and the washing were combined and distilled off under reduced pressure, then 25 ml of ethyl acetate and 300 ml of methanol were added to the residue and the mixture was cooled with ice. The crystals separated out were collected by filtration and recrystallized from a mixture of 25 ml of ethyl acetate and 250 ml of methanol to give 28.7 g of [(1R)-1-[(2R)-2-(2,4-difluorophenyl)- 2-oxiranyl]ethyl]3,5-dinitrobenzoate as colorless needles.

reactant | (1R)-1-[2-(2,4-Difluorophenyl)-2-oxiranyl]ethanol | 31.5 g | FC1=C(C=CC(=C1)F)C1(OC1)[C@@H](C)O | C10H10F2O2
reactant | 3,5-dinitrobenzoyl chloride | 40 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 24.1 ml | C(C)N(CC)CC | C6H15N
product | [(1R)-1-[(2R)-2-(2,4-difluorophenyl)- 2-oxiranyl]ethyl]3,5-dinitrobenzoate | 28.7 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)OC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C17H12F2N2O7
